US04435405
Di-t-butyl carbonate (11.9 g.) was added to a solution of 3-hydroxypiperidine (5.0 g.) in water (10 ml.) and t-butanol (5 ml.) at ambient temperature, and the mixture was stirred for 16 hr. at ambient temperature. 1,1-Dimethylethylenediamine (1.5 ml.) was added and the mixture was stirred at ambient temperature for 1 hr. The solution was poured into water (150 ml.) and extracted with diethyl ether (3×50 ml.). The diethyl ether extract was washed successively with 1 M-hydrochloric acid (50 ml.), saturated sodium carbonate solution (50 ml.) and brine (50 ml.), and then dried (MgSO4). The solvent was evaporated to give 1-t-butoxycarbonyl-3-hydroxypiperidine, which was used without further purification.

reactant | Di-t-butyl carbonate | 11.9 g | C(OC(C)(C)C)(OC(C)(C)C)=O | C9H18O3
reactant | 3-hydroxypiperidine | 5.0 g | OC1CNCCC1 | C5H11NO
reactant | 1,1-Dimethylethylenediamine | 1.5 ml | CC(CN)(N)C | C4H12N2
solvent | water | 10 ml | O | H2O
solvent | t-butanol | 5 ml | C(C)(C)(C)O | C4H10O
solvent | water | 150 ml | O | H2O
product | 1-t-butoxycarbonyl-3-hydroxypiperidine | C(C)(C)(C)OC(=O)N1CC(CCC1)O | C10H19NO3
